US06335334B1
18.) 4-((2-(4-Chloro-phenylsulfonylamino)-4,5-dimethoxy-benzoyl)-amino)-benzenesulfonyl fluoride
10.00 g (25.6 mmol) of 2-(4-Chloro-phenylsulfonylamino)-4,5-dimethoxy-benzoyl chloride were mixed with 300 ml of toluene, 4.49 g (25.6 mmol) of 4-aminobenzenesulfonyl fluoride were added and the mixture was heated under reflux for 4 h. After cooling the precipitated solid was filtered off with suction and washed with toluene. 11.71 g (87%) of the title compound having a melting point of 216-219° C. were obtained.

reactant | 2-(4-Chloro-phenylsulfonylamino)-4,5-dimethoxy-benzoyl chloride | 25.6 mmol, 10.00 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)Cl)C=C(C(=C1)OC)OC | C15H13Cl2NO5S
reactant | 4-aminobenzenesulfonyl fluoride | 25.6 mmol, 4.49 g | NC1=CC=C(C=C1)S(=O)(=O)F | C6H6FNO2S
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 4-((2-(4-Chloro-phenylsulfonylamino)-4,5-dimethoxy-benzoyl)-amino)-benzenesulfonyl fluoride | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)NC2=CC=C(C=C2)S(=O)(=O)F)C=C(C(=C1)OC)OC | C21H18ClFN2O7S2
